US03963717
To a solution of 40 g. of 2,3-dihydro-5-benzofuranamine in 200 ml. of methanol is added 23 ml. of isopropyl iodide and 35 ml. of triethylamine. The solution is refluxed for 55 hours and then concentrated in vacuo. The resultant oil is extracted several times with diethyl ether, the extract combined, filtered through Celite, and the ether removed in vacuo to obtain an oil of N-isopropyl-2,3-dihydro-5-benzofuranamine.

reactant | 2,3-dihydro-5-benzofuranamine | O1CCC2=C1C=CC(=C2)N | C8H9NO
reactant | methanol | CO | CH4O
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-isopropyl-2,3-dihydro-5-benzofuranamine | C(C)(C)NC=1C=CC2=C(CCO2)C1 | C11H15NO
